US08912200B2
Step 22: Ethyl 5-(2-amino-5-bromopyrimidin-4-yl)-2-(5-chloro-2-ethylphenyl)-1H-pyrrole-3-carboxylate (XXV)
Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-ethylphenyl)-1H-pyrrole-3-carboxylate (450 mg, 1.21 mmol) in DMF (7.5 mL) was treated with N-bromosuccinimide (216 mg, 1.21 mmol). The mixture was stirred overnight at room temperature, then poured into water, extracted with EtOAc (2×30 mL). The separated organic phase was dried over sodium sulfate and the solvent evaporated. Crystallization from diethyl ether afforded the title compound (420 mg, 77%).

reactant | Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-ethylphenyl)-1H-pyrrole-3-carboxylate | 1.21 mmol, 450 mg | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)CC)C(=O)OCC | C19H19ClN4O2
reactant | N-bromosuccinimide | 1.21 mmol, 216 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-(2-amino-5-bromopyrimidin-4-yl)-2-(5-chloro-2-ethylphenyl)-1H-pyrrole-3-carboxylate | 420 mg, 77% | NC1=NC=C(C(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)CC)C(=O)OCC)Br | C19H18BrClN4O2
